US05436229
A) EtNHCO-D-Phe-Pro-OBzl
To a solution of TFA.D-Phe-Pro-OBzl (10 g, 21.4 mmol) in dichloromethane (150 mL) was added N,N-diisopropylethylamine (3.73 mL, 21.4 mmol) followed by ethyl isocyanate (1.86 mL, 23.5 mmol). After stirring for 16 h, the solution was washed three times with 1N HCl, dried over Na2SO4, filtered and concentrated in vacuo to give 9.7 g (107%) of white foam.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | D-Phe-Pro-OBzl | 21.4 mmol, 10 g | N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C21H24N2O3
reactant | N,N-diisopropylethylamine | 21.4 mmol, 3.73 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl isocyanate | 23.5 mmol, 1.86 mL | C(C)N=C=O | C3H5NO
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | EtNHCO-D-Phe-Pro-OBzl | 9.7 g, 107% | C(C)NC(=O)N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C24H29N3O4
